US07994185B2
Step D: 1,1-dimethylethyl {1-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-methylethyl}carbamate
To a solution of 1,1-dimethylethyl {1-[4-(3-amino-2-fluorophenyl)-5-(2-chloro-4-pyrimidinyl)-1,3-thiazol-2-yl]-1-methylethyl}carbamate (400 mg, 0.862 mmol) in pyridine (50 mL) was added dropwise 2,6-difluorobenzenesulfonyl chloride (238 mg, 1.121 mmol). After 4 h, 2,6-difluorobenzenesulfonyl chloride (0.20 g) was added to the reaction mixture and stirred at rt overnight. The reaction mixture was concentrated. The residue was purified via chromatography on silica gel to obtain the title compound (330 mg 59% yield). MS (ESI): 639.9 [M+H]+

reactant | 1,1-dimethylethyl {1-[4-(3-amino-2-fluorophenyl)-5-(2-chloro-4-pyrimidinyl)-1,3-thiazol-2-yl]-1-methylethyl}carbamate | 0.862 mmol, 400 mg | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)NC(OC(C)(C)C)=O)F | C21H23ClFN5O2S
reactant | 2,6-difluorobenzenesulfonyl chloride | 1.121 mmol, 238 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 2,6-difluorobenzenesulfonyl chloride | 0.20 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 1,1-dimethylethyl {1-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-methylethyl}carbamate | 330 mg, 59% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)NC(OC(C)(C)C)=O)C1=C(C(=CC=C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C27H25ClF3N5O4S2
